US06642389B2
c] (S)-2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid
0.195 g of the above prepared (S)-4-benzyl-3-((2S)-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionyl)-oxazolidin-2-one (0.32 mmol) was dissolved in 2.25 ml of THF and treated with 0.81 ml of 1N NaOH (2.5 eq.). The reaction mixture was kept at 0° and progress of the hydrolysis followed by TLC. After 1 h the reaction mixture was quenched by pouring onto crashed ice/HCl. Twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents left a crude product, which was purified by twofold crystallisation from AcOEt/hexane to remove the chiral auxiliary. Thereby, 0.102 g of the title compound was obtained as white solid, mp.118-120°. The enantiomeric excess was judged according to 1H-NMR in the presence of a large excess of optically pure trifluoromethyl-anthryl-ethanol to be >95%. According to chiral HPLC (Chiralpak-AD) it amounts to 99.3%.

reactant | (S)-4-benzyl-3-((2S)-2-methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionyl)-oxazolidin-2-one | 0.32 mmol | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)OC)=O | C34H32N2O6S
reactant | NaOH | 1N, 0.81 ml, 2.5 eq. | [OH-].[Na+]
reactant | THF | 2.25 ml | C1CCOC1 | C4H8O
product | (S)-2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid | 0.102 g | CO[C@H](C(=O)O)CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C24H23NO5S
